US05700809
1-Benzyl-4-(benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine
To a solution of benzothiophene (3 g, 22.4 mmol) in anhydrous tetrahydrofuran (50 ml) at -10° C. under nitrogen was added n-butyllithium (9.83 ml of a 2.5M solution in toluene), the mixture was allowed to warm to room temperature and stirred for 1 hr. The reaction mixture was cooled to -40° C. and 1-benzyl-4-piperidone (4.23 g, 22.4 mmol) added, allowed to warm to room temperature and stirred for 14 hr. The reaction mixture was concentrated in vacuo and trifluoroacetic acid (10 ml) added. This mixture was stirred at room temperature for 14 hr and then concentrated in vacuo. The product was extracted into dichloromethane (3×100 ml) from aqueous potassium carbonate. The organic layer was washed with water (1×50 ml), brine (1×50 ml) and dried (MgSO4). After concentration of the extracts the crude product was purified using silica gel column chromatography to yield the title compound (4.2 g, 68%) as a colourless oil; δH (CDCl3) 2.64 (2H, m, tetrahydropyridinyl CH2), 2.74 (2H, m, tetrahydropyridinyl CH2), 3.18 (2H, m, tetrahydropyridinyl CH2), 3.65 (2H, s, PhCH2N), 6.18 (1H, m, CH=CR), 7.11 (1H, s, 3'-H), and 7.24-7.73 (9H, m, Ar--H).

reactant | benzothiophene | 22.4 mmol, 3 g | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 22.4 mmol, 4.23 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-4-(benzothiophen-2-yl)-1,2,3,6-tetrahydropyridine | 4.2 g, 68% | C(C1=CC=CC=C1)N1CCC(=CC1)C=1SC2=C(C1)C=CC=C2 | C20H19NS
